US07598244B2
The obtained 4-(2-methyl[1,3]dioxolan-2-yl)butan-2-one (27.60 g) was dissolved in tetrahydrofuran (220 ml), and thereafter, methylmagnesium bromide (3 M tetrahydrofuran solution; 85 ml) was added to the solution at a room temperature. The obtained mixture was stirred for 40 minutes, and an aqueous saturated ammonium chloride solution (300 ml) was then added thereto, followed by extraction with ethyl acetate (300 ml×3). The organic layer was washed with a saturated saline solution, and then dried over anhydrous sodium sulfate. The solvent was then distilled off under a reduced pressure. The residue was purified by silica gel column chromatography (eluted with ethyl acetate-hexane (1:1)) to obtain 2-methyl-4-(2-methyl[1,3]dioxolan-2-yl)butan-2-ol (21.18 g).

reactant | 4-(2-methyl[1,3]dioxolan-2-yl)butan-2-one | 27.60 g | CC1(OCCO1)CCC(C)=O | C8H14O3
reactant | methylmagnesium bromide | 3 M, 85 ml | C[Mg]Br
reactant | ammonium chloride | 300 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 220 ml | O1CCCC1 | C4H8O
product | 2-methyl-4-(2-methyl[1,3]dioxolan-2-yl)butan-2-ol | 21.18 g | CC(C)(CCC1(OCCO1)C)O | C9H18O3
